US09029421B2
Preparation of 3-amino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-methoxyphenyl ethyl)aminomethyl]benzyl alcohol
To a solution of 4-benzyloxy-3-nitro-α-[N-benzyl-N-(1-methyl-2-p-methoxyphenylethyl)aminomethyl]benzyl alcohol (100 gms, 0.19 M) in DMF (500 ml) was added 10% Pd/C. The resulting mass was heated to 40° C. and ammonium formate (36 gms, 0.57 M) was added in lots in 1 hour. The reaction mass was heated slowly to 70-75° C. for 1 hour, then cooled to 50° C. The catalyst was removed by filtration and the clear filtrate evaporated. The residue was stirred in water (500 ml) and basified with liq. Ammonia. The reaction mass was extracted in 1.0-lit toluene, washed organic extract with water, dried on sodium sulfate and evaporated to obtain title compound. (80 gms, 84.21%)

reactant | 4-benzyloxy-3-nitro-α-[N-benzyl-N-(1-methyl-2-p-methoxyphenylethyl)aminomethyl]benzyl alcohol | 0.19 M, 100 gms | C(C1=CC=CC=C1)OC1=C(C=C(C(CN(C(CC2=CC=C(C=C2)OC)C)CC2=CC=CC=C2)O)C=C1)[N+](=O)[O-] | C32H34N2O5
reactant | ammonium formate | 0.57 M, 36 gms | C(=O)[O-].[NH4+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | [Pd] | Pd
product | 3-amino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-methoxyphenyl ethyl)aminomethyl]benzyl alcohol | NC=1C=C(C(CN(C(CC2=CC=C(C=C2)OC)C)CC2=CC=CC=C2)O)C=CC1OCC1=CC=CC=C1 | C32H36N2O3
